US06252070B1
Preparation of 1-(6-bromo-4-ethyl-benzo[1,3]dioxole
A 2L, 3 neck round bottom flask was equipped with an overhead stirrer, heating mantle, condenser, and nitrogen inlet. The flask was flushed with nitrogen and charged with acetonitrile (700 mL), followed by 5-bromo-2,3-dihydroxyethylbenzene (54.5 g, assumed to be 0.25 mol), then anhydrous cesium carbonate (121 g, 0.37 mol) and bromochloromethane (57 g, 0.44 mol). The mixture was stirred and heated to reflux (˜74° C.). At that point, sodium iodide (5 g, 0.03 mol) was added, and the mixture was boiled for 90 minutes. The mixture was then cooled and filtered with suction. The filter cake was rinsed with acetonitrile, then the solvent was removed under vacuum. The residue was treated with water (700 mL), and the mixture was extracted twice with 400 mL portions of hexane. The hexane was removed under vacuum, then the residue (˜36 g) was distilled under high vacuum. The distillate, collected at a head temperature of 84° C. (0.8 mm Hg) weighed 24 g (0.10 mol, 41% for the two steps). The product thus obtained has NMR characteristics consistent with the title compound and is greater than 95% pure by gas chromatography.

reactant | 5-bromo-2,3-dihydroxyethylbenzene | 0.25 mol, 54.5 g | BrC=1C=C(C=C(C1)CCO)O | C8H9BrO2
reactant | cesium carbonate | 0.37 mol, 121 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromochloromethane | 0.44 mol, 57 g | BrCCl | CH2BrCl
reactant | sodium iodide | 0.03 mol, 5 g | [I-].[Na+]
product | 6-bromo-4-ethyl-benzo[1,3]dioxole | BrC=1C=C(C2=C(OCO2)C1)CC | C9H9BrO2
